US05089405
Ketoprofen amide (59 μmol).
The basic phase is acidified and is then extracted with chloroform. After forming the R (+) α-methylbenzylamine derivative of ketoprofen, analysis of the mixture of the two diastereoisomers by high performance liquid chromatography shows that the enantiomeric excess of S (+) ketoprofen is 93%.

reactant | (+) α-methylbenzylamine | CC(C1=CC=CC=C1)N | C8H11N
reactant | ketoprofen | OC(=O)C(C)C1=CC(C(=O)C2=CC=CC=C2)=CC=C1 | C16H14O3
product | Ketoprofen amide | CC(C1=CC=CC(=C1)C(=O)C2=CC=CC=C2)C(=O)N | C16H15NO2
